US09315458B2
A) methyl 5-bromo-2-(bromomethyl)benzoate
To a solution of methyl 5-bromo-2-methylbenzoate (5.27 g) in trifluoromethylbenzene (50.0 mL) were added AIBN (0.04 g) and N-bromosuccinimide (4.50 g), and the mixture was stirred at 90° C. for 4 hr under argon atmosphere. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.89 g).

reactant | methyl 5-bromo-2-methylbenzoate | 5.27 g | BrC=1C=CC(=C(C(=O)OC)C1)C | C9H9BrO2
reactant | N-bromosuccinimide | 4.50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | trifluoromethylbenzene | 50.0 mL | FC(F)(F)C1=CC=CC=C1 | C7H5F3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | AIBN | 0.04 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | methyl 5-bromo-2-(bromomethyl)benzoate | 4.89 g | BrC=1C=CC(=C(C(=O)OC)C1)CBr | C9H8Br2O2
